US04673686
N-(1-cyclohexyl methyl-2-pyrrolidinyl-methyl)-2-methoxy-4-amino-5-ethylsulphonyl-benzamide
25.9 g of 2-methoxy-4-amino-5-ethylsulphonyl benzoic acid, 40 ml of water, 200 ml of acetone and 13.9 ml of triethylamine (density 0.726) are placed in a 500 ml flask fitted with an agitator, a thermometer and a dropping funnel. The solution is cooled to about 0° to 5° C. and 10.9 g of ethyl chloroformate is dripped in. The mixture is agitated for 40 minutes at about 0° C., then 19.6 g of 1-cyclohexyl-methyl-2-aminomethyl pyrrolidine is added drop by drop. The mixture is agitated for 2 hours at room temperature then left to stand. The acetone is evaporated under vacuum and the residue is dissolved in 100 ml of water and 25 ml of acetic acid and filtered in the presence of vegetable black. The filtrate is made alkaline with 100 ml of 40% soda lye. A precipitate is formed; this is filtered, washed with plenty of water and dissolved moist in 230 ml of boiling acetone. The hot solution is filtered in the presence of vegetable black and the filtrate is crystallised. The product is drained, washed with a little acetone and dried in an oven at 50° C.

reactant | 2-methoxy-4-amino-5-ethylsulphonyl benzoic acid | 25.9 g | COC1=C(C(=O)O)C=C(C(=C1)N)S(=O)(=O)CC | C10H13NO5S
reactant | water | 40 ml | O | H2O
reactant | ethyl chloroformate | 10.9 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cyclohexyl-methyl-2-aminomethyl pyrrolidine | 19.6 g | C1(CCCCC1)N1C(CCC1)(CN)C | C12H24N2
solvent | triethylamine | 13.9 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(1-cyclohexyl methyl-2-pyrrolidinyl-methyl)-2-methoxy-4-amino-5-ethylsulphonyl-benzamide | C1(CCCCC1)N1C(CCC1)C(NC(C1=C(C=C(C(=C1)S(=O)(=O)CC)N)OC)=O)C | C22H35N3O4S
